US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 1, using 1.63 g (5.28 mmol) of 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide hydrochloride prepared in the same manner as in Example 57 and, instead of benzoyl chloride, isonicotinic chloride which was prepared separately by a conventional method, to obtain 1.78 g of 1-(4-t-butylbenzyl)-4-(4-pyridylcarbonylamino)-5-imidazolecarboxamide (yield 89%).

reactant | 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide hydrochloride | 5.28 mmol, 1.63 g | Cl.NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C(C)(C)C
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | isonicotinic chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
product | 1-(4-t-butylbenzyl)-4-(4-pyridylcarbonylamino)-5-imidazolecarboxamide | 1.78 g, yield 89% | C(C)(C)(C)C1=CC=C(CN2C=NC(=C2C(=O)N)NC(=O)C2=CC=NC=C2)C=C1 | C21H23N5O2
